US06933304B2
Trifluoromethanesulfonic anhydride (5.4 mL; 31.8 mmoles) was added to an ice cooled solution of methyl 5-amino-3,3-dimethyl-5-oxopentanoate (5.00 g; 28.9 mmoles) in methylene chloride (250 mL) and triethylamine (8 mL; 57.8 mmoles), under nitrogen while keeping the temperature below 5° C. The reaction mixture was allowed to warm to room temperature and stirred for 30 minutes. Water (125 mL) was added and the phases were separated. The aqueous phase was extracted with methylene chloride (100 mL). The organic phases were combined, washed with saturated aqueous sodium chloride solution and dried over sodium sulfate. The solution was filtered and the solvent was removed under vacuum to give the product, methyl 4-cyano-3,3-dimethylbutanoate (3.1 g; 69%). 1H NMR (400 MHz) DMSO-d6 δ 3.60 (3H, s), 2.61 (2H, s), 2.35 (2H, s), 1.07 (6H, s).

reactant | Trifluoromethanesulfonic anhydride | 31.8 mmoles, 5.4 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | methyl 5-amino-3,3-dimethyl-5-oxopentanoate | 28.9 mmoles, 5.00 g | NC(CC(CC(=O)OC)(C)C)=O | C8H15NO3
reactant | triethylamine | 57.8 mmoles, 8 mL | C(C)N(CC)CC | C6H15N
reactant | Water | 125 mL | O | H2O
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
product | methyl 4-cyano-3,3-dimethylbutanoate | 3.1 g, 69% | C(#N)CC(CC(=O)OC)(C)C | C8H13NO2
